US05576324
2-Bromomethyl-3,5,8,8-tetramethyl-2,3,6,7,8,9-hexahydrofuro[2,3-f]quinoline-7-one
A solution of 5-hydroxy-6-(1-methyl-2-propenyl)-3,3,8-trimethyl-3,4-dihydrocarbostyril (1.6 g, 6.2 mmol) and N-bromosuccinimide (1.2 g, 6.5 mmol) in chloroform (20 ml) was refluxed while stirring for 1 hour. Chloroform was added to the reaction mixture, followed by washing with water, and drying. The solvent was evaporated, and the residue was recrystallized from ethyl acetate-hexane. 1.9 g of the title compound was obtained as colorless crystals (90.6%).

reactant | 5-hydroxy-6-(1-methyl-2-propenyl)-3,3,8-trimethyl-3,4-dihydrocarbostyril | 6.2 mmol, 1.6 g | OC1=C2CC(C(NC2=C(C=C1C(C=C)C)C)=O)(C)C | C16H21NO2
reactant | N-bromosuccinimide | 6.5 mmol, 1.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromomethyl-3,5,8,8-tetramethyl-2,3,6,7,8,9-hexahydrofuro[2,3-f]quinoline-7-one | 1.9 g | BrCC1C(C=2C(=C3CC(C(NC3=C(C2)C)=O)(C)C)O1)C | C16H20BrNO2
